US05610174
Synthesis of (±)-6-Methoxy-5-amino-l,2,3, 4-tetrahydronaphthalen-1-carbonitrile.
A solution of 6-methoxy-5-nitro-l,2,3,4-tetrahydronaphthalene-1-carbonitrile (0.42 g, 1.8 mmol) and catalytic amount of 10% Pd/C in 100 ml of MeOH was stirred under H2 for 12 h at 25° C. The reaction mixture was filtered and concentrated in vacuo to yield the desired product as a colorless oil (0.36 g, >95%). 1H NMR (300 MHz, CDCl3): δ 1.93 (m, 4H), 2.48 (qt, 2H, J=5.7 Hz), 3.79 (s, 3H), 3.99 (t, 1H, J=6.3 Hz), 6.68 (dd, 2H, J=8.0, 8.9 Hz).

reactant | 6-methoxy-5-nitro-l,2,3,4-tetrahydronaphthalene-1-carbonitrile | 1.8 mmol, 0.42 g | COC=1C(=C2CCCC(C2=CC1)C#N)[N+](=O)[O-] | C12H12N2O3
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (±)-6-Methoxy-5-amino-l,2,3, 4-tetrahydronaphthalen-1-carbonitrile | 0.36 g, >95% | COC=1C(=C2CCCC(C2=CC1)C#N)N | C12H14N2O
